US07906544B2
4-(3-amino-propyl)-1,3-dihydro-imidazole-2-thione hydrochloride (42).
To an Erlenmeyer flask was prepared a solution of L-ornithine methyl ester hydrochloride (10.50 g, 47.9 mmol) in water (125 mL). The solution was cooled to 5° C. and pH adjusted to a value of 1.5 with concentrated HCl. While being careful to maintain the above stated temperature and pH, 5% Na(Hg) (250 g) was added slowly to the solution over a time period of 35 min. After the addition was complete and bubbling had calmed the Hg was decanted from the solution. The remaining aqueous portion was drained into a separate flask where potassium thiocyanate (14.0 g, 144 mmol) and water (75 mL) was added. The pH of solution was adjusted to a value of 4.30 and the flask was then heated at 95° C. while open to the atmosphere for 1.5 h. After cooling to room temperature, ethanol (75 mL) was added and the reaction was evaporated to dryness. The residue was taken up in methanol and filtered to remove NaCl. After all of the NaCl had been removed the crude residue was purified by column chromatography (CH2Cl/MeOH sat. with NH3 80:20) to afford the desired compound in its free base form. Addition of concentrated hydrochloric acid to a methanol solution (50 mL) of the free base followed by evaporation to dryness gave 4.51 g (48%) of the title compound 42 as a tan solid: 1H NMR (300 MHz, DMSO-d6) δ 11.92 (s, 1H), 11.69 (s, 1H), 7.77 (s, 2H), 6.58 (s, 1H), 2.73 (m, 2H), 2.42 (t, 2H, J=6.6 Hz), 1.76 (tt, 2H, J=7.5, 13.8 Hz); 13C NMR (100 MHz, DMSO-d6) δ 160.23, 128.03, 111.69, 38.08, 25.75, 21.27; HRMS (FAB) calcd for C6H12N3S (MN+) 158.0752, found 158.0743.

reactant | L-ornithine methyl ester hydrochloride | 47.9 mmol, 10.50 g | Cl.COC([C@@H](N)CCCN)=O
reactant | HCl | Cl | ClH
reactant | potassium thiocyanate | 144 mmol, 14.0 g | [S-]C#N.[K+]
reactant | ethanol | 75 mL | C(C)O | C2H6O
solvent | water | 125 mL | O | H2O
solvent | water | 75 mL | O | H2O
product | 4-(3-amino-propyl)-1,3-dihydro-imidazole-2-thione hydrochloride | Cl.NCCCC=1NC(NC1)=S | InChI=1S/C6H11N3S.ClH/c7-3-1-2-5-4-8-6(10)9-5;/h4H,1-3,7H2,(H2,8,9,10);1H
